US09210927B2
Preparation of (E)-N-((6-Chloropyridin-3-yl)methyl)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-2-methylbenzothioamide (AC115)
To the stirred solution of (E)-N-((6-chloropyridin-3-yl)methyl)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzamide (0.06 g, 0.117 mmol) in toluene (3 mL) was added Lawesson's reagent (0.14 g, 0.351 mmol) and the reaction was irradiated at 100° C. for 1 h, then cooled to ambient temperature and concentrated under reduced pressure to provide crude compound. The crude product was purified by preparative HPLC to afford the product as yellow color solid (0.03 g, 49%).

reactant | (E)-N-((6-chloropyridin-3-yl)methyl)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-enyl)-2-methylbenzamide | 0.117 mmol, 0.06 g | ClC1=CC=C(C=N1)CNC(C1=C(C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C24H18Cl3F3N2O
reactant | Lawesson's reagent | 0.351 mmol, 0.14 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-N-((6-Chloropyridin-3-yl)methyl)-4-(3-(3,5-dichlorophenyl)-4,4,4-trifluorobut-1-en-1-yl)-2-methylbenzothioamide | 0.03 g, 49% | ClC1=CC=C(C=N1)CNC(C1=C(C=C(C=C1)\C=C\C(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=S | C24H18Cl3F3N2S
